* Capacitor for use in montecarlo simulations J meech 0ct 2004
*C1 N001 0 {C} V={V} Irms={A} Rser={ESR} MTBF={MTBF} Lser={ESL} Rpar={EPR} Cpar={EPC} ppPkg={PPP}
*no parasitics have been included in this library. CMCPAR.lib will include parasitics
* Minimum Value
.subckt C_min_0 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
C1 A B {C*ran}
.ends C_min

* Nominal Value
.subckt C_nom_1 A B
C1 A B {C} 
.ends C_nom

* Maximum Value
.subckt C_max_2 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
C1 A B {C*ran}
.ends C_max_2

* Binary min/max distribution
* Requires "run" = (0)1...
* run==0 uses nominal value
* Requires "seed" = 1 ... N  ->  Bit-n 0...N-1
.subckt C_minmax_bin A B
.param EPS=1e-6
.param TOLC=TOL/50
.param w=2**(seed-1)
* Test if Bit-n is 1   n=0..N-1
.param RN=if(((run-1)-(2*w)*int((run-1)/(2*w)+{EPS}))>(w-0.5),1,0)
.param ran={if((run==0),1,1-TOLC/2+TOLC*RN)} 
C1 A B {C*ran} 
.ends C_minmax_bin

* Uniform distribution
.subckt C_uniform_3 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
C1 A B {C*ran}  
.ends C_uniform

* worst case distribution
.subckt C_worstcase_4 A B
.param TOLC=TOL/50
.param RN=round(rand(seed*100000+run))-.5
.param ran={1+TOLC*RN} 
C1 A B {C*ran} 
.ends C_worstcase_4

* Gausian distribution with average of 5
.subckt C_Gausian_5 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
C1 A B {C*ran}
.ends C_Gausian_5

* Gausian distribution with average of 10
.subckt C_Gausian_10 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param A6=(1+TOLC*(rand(seed*100000+50000+run)-.5))
.param A7=(1+TOLC*(rand(seed*100000+60000+run)-.5))
.param A8=(1+TOLC*(rand(seed*100000+70000+run)-.5))
.param A9=(1+TOLC*(rand(seed*100000+80000+run)-.5))
.param A10=(1+TOLC*(rand(seed*100000+90000+run)-.5))
.param ran={(a1+a2+a2+a4+a5+a6+a7+a8+a9+a10)/10}
C1 A B {C*ran} 
.ends C_Gausian_10


* Minimum Value
.subckt 0 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
C1 A B {C*ran}
.ends 0

* Nominal Value
.subckt 1 A B
C1 A B {C} 
.ends 1

* Maximum Value
.subckt 2 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
C1 A B {C*ran} 
.ends 2

* Uniform distribution
.subckt 3 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
C1 A B {C*ran} 
.ends 3

* worst case distribution
.subckt 4 A B
.param TOLC=TOL/50
.param RN=round(rand(seed*100000+run))-.5
.param ran={1+TOLC*RN}
C1 A B {C*ran} 
.ends 4

* Gausian distribution with average of 5
.subckt 5 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
C1 A B {C*ran} 
.ends 5

* Gausian distribution with average of 10
.subckt 10 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param A6=(1+TOLC*(rand(seed*100000+50000+run)-.5))
.param A7=(1+TOLC*(rand(seed*100000+60000+run)-.5))
.param A8=(1+TOLC*(rand(seed*100000+70000+run)-.5))
.param A9=(1+TOLC*(rand(seed*100000+80000+run)-.5))
.param A10=(1+TOLC*(rand(seed*100000+90000+run)-.5))
.param ran={(a1+a2+a2+a4+a5+a6+a7+a8+a9+a10)/10}
C1 A B {C*ran} 
.ends 10
