* Inductor for use in montecarlo simulations J meech 0ct 2004
* Gausian distribution with average of 10
* No parasitics are included in LMC.lib.
* Minimum Value
.subckt L_min_0 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
L1 A B {L*ran}
.ends L_min

* Nominal Value
.subckt L_nom_1 A B
L1 A B {L} 
.ends L_nom

* Maximum Value
.subckt L_max_2 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
L1 A B {L*ran}
.ends L_max_2


* Uniform distribution
.subckt L_uniform_3 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
L1 A B {L*ran}  
.ends L_uniform

* Binary min/max distribution
* Requires "run" = (0)1...
* run==0 uses nominal value
* Requires "seed" = 1 ... N  ->  Bit-n 0...N-1
.subckt L_minmax_bin_4 A B
.param EPS=1e-6
.param TOLC=TOL/50
.param w=2**(seed-1)
* Test if Bit-n is 1   n=0..N-1
.param RN=if(((run-1)-(2*w)*int((run-1)/(2*w)+{EPS}))>(w-0.5),1,0)
.param ran={if((run==0),1,1-TOLC/2+TOLC*RN)} 
L1 A B {L*ran} 
.endsl_minmax_bin_4

* Gausian distribution with average of 5
.subckt L_Gausian_5 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
L1 A B {L*ran}
.ends L_Gausian_5


* Minimum Value
.subckt 20 A B
.param TOLC=TOL/50
.param ran=1+TOLC*-.5
L1 A B {L*ran}
.ends 20

* Nominal Value
.subckt 21 A B
L1 A B {L} 
.ends 21

* Maximum Value
.subckt 22 A B
.param TOLC=TOL/50
.param ran=1+TOLC*.5
L1 A B {L*ran} 
.ends 22

* Uniform distribution
.subckt 23 A B
.param TOLC=TOL/50
.param ran=(1+TOLC*(rand(seed*100000+run)-.5))
L1 A B {L*ran} 
.ends 23

* Binary min/max distribution
* Requires "run" = (0)1...
* run==0 uses nominal value
* Requires "seed" = 1 ... N  ->  Bit-n 0...N-1
.subckt 24 A B
.param EPS=1e-6
.param TOLC=TOL/50
.param w=2**(seed-1)
* Test if Bit-n is 1   n=0..N-1
.param RN=if(((run-1)-(2*w)*int((run-1)/(2*w)+{EPS}))>(w-0.5),1,0)
.param ran={if((run==0),1,1-TOLC/2+TOLC*RN)} 
L1 A B {L*ran} 
.ends 24


* Gausian distribution with average of 5
.subckt 25 A B
.param TOLC=TOL/50
.param A1=(1+TOLC*(rand(seed*100000+run)-.5))
.param A2=(1+TOLC*(rand(seed*100000+10000+run)-.5))
.param A3=(1+TOLC*(rand(seed*100000+20000+run)-.5))
.param A4=(1+TOLC*(rand(seed*100000+30000+run)-.5))
.param A5=(1+TOLC*(rand(seed*100000+40000+run)-.5))
.param ran={(a1+a2+a2+a4+a5)/5}
L1 A B {L*ran} 
.ends 25



