* Control Theory Library
* Regelungstechnik Bibliothek
* Helmut Sennewald
* 06.04.2009
*
*
*** ADD *******************************
*
* Add Two Signals
* G(s)=in1+in2
*
.subckt CT___ADD in1 in2 out
G1 0 out1 in1 0 1
G2 0 out1 in2 0 1
R1 out1 0 1
E1 out 0 out1 0 1
.ends

*** AP1 *******************************
*
* All-Pass Filter First Order
* G(s) = Kp*(1-sT)/(1+sT)
* tg = T/pi 
*
.subckt CT___AP1 in out
.param Kp=1 T=1		; parameters
E1 in1 0 in 0 1
R1 in1 1 1k
C1 in1 2 {T/1k}
R2 2 0 1k
C2 1 0 {T/1k}
E2 out 0 1 2 {Kp}
.ends

*** AP2 *******************************
*
* All-Pass Filter Second Order
* G(s) = Kp*((s/w0)^2-2*D*s/w0+1)/((s/w0)^2+2*D*s/w0+1)
* tg = 2*D/(pi*w0)
*
.subckt CT___AP2 in out
.param Kp=1 D=1 w0=1	; parameters
.param Q=1/(2*D)
.param C2=C1/4
.param R1=1k
.param C1=Q/(4*w0*R1)
.param L1=R1/(w0*Q)
E1 1 0 in 0 1
C1 1 2 {C1}
L1 1 3 {L1}
L2 3 2 {L1}
R1 3 0 {R1}
K1 L1 L2 1
E2 out 0 2 0 {Kp}
.ends

*** D ********************************* 
*
* Differentiator
* G(s)=Kd*s 
*
.subckt CT___D in out
.param Kd=1    	; parameters
E1 11 0 in 0 1
C1 11 12 {Kd/1000}
V1 12 0 0
H1 out 0 V1 1000
.ends

*** DT1 ******************************* 
*
* Highpass Filter
* G(s)=Kd*s/(1+sT1)
*
.subckt CT___DT1 in out
.param Kd=1  T1=1 	; parameters
.param K1=Kd/T1 
E1 1 0 in 0 1
C1 1 2 {T1/1000}
R1 2 0 1000
E2 out 0 2 0 {K1}
.ends

*** I ********************************* 
*
* Integrator
* G(s)=Ki/(Ti*s)
*
.subckt CT___I in out
.param Ki=1 Ti=1 		; parameters
G1 0 1 in 0 1
C1 1 0 {Ti} IC=0
R1 1 0 1e10
E1 out 0 1 0 {Ki}
.ends

*** IT1 ******************************* 
*
* Integrator Followed by Lowpass 
*
* F(s)= Kp/(sTi) * 1/(1+sT1)
*
.subckt CT___IT1 in out
.param Kp=1 Ti=1 T1=1	; parameters
G1 0 1 in 0 1
C1 1 0 {Ti}
R1 1 0 1e10
G2 0 2 1 0 1
R2 2 0 1
C2 2 0 {T1}
E2 out 0 2 0 {Kp}
.ends

*** P ******************************** 
*
* Proportional
* G(s)=Kp
*
.subckt CT___P in out
.param Kp=1 		; parameters
E1 out 0 in 0 {Kp}
.ends

*** P2 ******************************* 
*
* Proportional with two inputs 
* G(s)=Kp1+Kp2
*
.subckt CT___P2 in1 in2 out
.param Kp1=1 Kp2=1		; parameters
G1 0 1 in1 0 {Kp1}
G2 0 1 in2 0 {Kp2}
R1 1 0 1
E1 out 0 1 0 1
.ends

*** P3 ******************************* 
*
* Proportional with three inputs  
* G(s)=Kp1+Kp2+Kp3
*
.subckt CT___P3 in1 in2 in3 out
.param Kp1=1 Kp2=1 Kp3=1	; parameters
G1 0 1 in1 0 {Kp1}
G2 0 1 in2 0 {Kp2}
G3 0 1 in3 0 {Kp3}
R1 1 0 1
E1 out 0 1 0 1
.ends

*** PD ******************************** 
*
* Proportional-Derivative Control
* G(s)=Kp*(1+s*Tv)
*
.subckt CT___PD in out
.param Kp=1 Tv=1	; parameters
G1 0 out1 in 0 {Kp}
R1 out1 out2 1
L1 out2 0 {Tv}
E1 out 0 out1 0 1
.ends

*** PDT1 ****************************** 
*
* Proportional-Derivative Control  
* PDT1 Tv>T1 Lead-Element
* PDT1 Tv<T1 Lag-Element
* 
* G(s)=Kp*(1+Tv*s)/(1+T1*s)
*
.subckt CT___PDT1 in out
.param Kp=1 Tv=1 T1=1	; parameters
E1 1 0 in 0 1
C0 1 2 {Tv/1k}
R0 1 2 1k
V0 2 0 0
F1 0 3 V0 1
R1 3 0 1k
C1 3 0 {T1/1k}
E2 out 0 3 0 {Kp}
.ends

*** PI ******************************** 
*
* Proportional-Integral Control
* G(s )= Kr + Kr/(sTn) = Kr*(1+sTn)/(sTn)
*
.subckt CT___PI in out
.param Kr=1 Tn=1	 ; parameters
.param RN=1
G1 0 1 in 0 1
R1 1 2 {RN}
C1 2 0 {TN} IC=0
R2 1 0 1e10
E1 out 0 1 0 {Kr}
.ends

*** PID ******************************* 
*
* Proportional-Integral-Derivative Control
* G(s) = Kr*( 1 + 1/(s*Tn) + s*Tv )
*
.subckt CT___PID in out
.param Kr=1 Tn=1 Tv=1  	; parameter
* P
G4 0 3 in 0 1
* I
G1 0 2 in 0 1
C1 2 0 {Tn} IC=0
R1 2 0 1e10
G2 0 3 2 0 1
* D
E1 4 0 in 0 1
C2 4 5 {Tv/1k}
V1 5 0 0
F1 0 3 V1 1k
* sum
R3 3 0 1
E4 out 0 3 0 {Kr}
.ends

*** PIDT1 ***************************** 
*
* * Proportional-Integral-Derivative-T1 Control  
* G(s) = Kr*( 1 + 1/(s*Tn) + s*Tv/(1+s*T1) )
*
.subckt CT___PIDT1 in out
.param Kr=1 Ti=1 Td=1 T1=1	; parameters
* I
G1 0 2 in 0 1
C1 2 0 {Tn}
R1 2 0 1e10
G2 0 3 2 0 1
* D
E1 4 0 in 0 1
C2 4 1 {T1}
R2 1 0 1
G3 0 3 1 0 {Tv/T1}
* P
G4 0 3 in 0 1
*
R3 3 0 1
E4 out 0 3 0 {Kr}
.ends

*** PPT1 ****************************** 
*
* PPT1 Tv<T1 
* PDT1 Tv>T1
* * * 
* G(s)=Kp*(1+Tv*s)/(1+T1*s)
*
.subckt CT___PPT1 in out
.param Kp=1 Tv=1 T1=1	; parameters
E1 1 0 in 0 1
C0 1 2 {Tv/1k}
R0 1 2 1k
V0 2 0 0
F1 0 3 V0 1
R1 3 0 1k
C1 3 0 {T1/1k}
E2 out 0 3 0 {Kp}
.ends

*** PT1 ******************************* 
*
* Lowpass First Order
* G(s) = Kp/(1+s*T1)
* 1/T1 is the Radian Corner Frequency
* 
.subckt CT___PT1 in out
.param T1=1 Kp=1	   ; parameters
G1 0 1 in 0 1
C1 1 0 {T1}  
R1 1 0 1
E2 out 0 1 0 {Kp}
.ends

*** PT2 ******************************* 
*
* Lowpass Second Order, real poles
* 
* G(s)=Kp/((1+sT1)*(1+sT2))
* 
* 1/T1 and 1/T2 are the radian corner frequencies.
*
.subckt CT___PT2 in out
.param Kp=1 T1=1 T2=1	; parameters
G1 0 1 in 0 1
C1 1 0 {T1}  
R1 1 0 1
G2 0 2 1 0 1
C2 2 0 {T2}
R2 2 0 1
E2 out 0 2 0 {Kp}
.ends

*** PT2S ****************************** 
*
* Lowpass Second Order, real or complex poles
* 
* G(s)=Kp/(1+2*D/w0*s+s*s/(w0*w0))
* Kp=gain, D=damping factor, w0=radian frequency
*
.subckt CT___PT2S in out
.param Kp=1 D=1 w0=1 	; parameters
.param C1={1/(w0*100)}
.param L1={100/w0}
.param R1=2*D*100
E1 1 0 in 0 1	    
R1 1 2 {R1} 
L1 2 3 {L1}
C1 3 0 {C1}
E2 out 0 3 0 {Kp}
.ends

*** SUB ******************************* 
*
* Subtract Two Signals
* G(s)=inp-inm
*
.subckt CT___SUB inp inm out
G1 0 out1 inp inm 1
R1 out1 0 1
E1 out 0 out1 0 1
.ends

*** TT ******************************** 
*
* Delay, Dead Time 
* G(s)= Kp*exp(-sTt) = Kp*delay(Tt)
* 
* Tt dead time (delay), Kp gain
*
.subckt CT___TT in out
.param Kp=1 Tt=1 		; parameters    
B1 0 out1 I=delay(V(in),{Tt}) 
R1 out1 0 1
E1 out 0 out1 0 {Kp}
.ends
 


