*---------------------------------------------------------------------------
*
* BFR93A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT23 DIE MODEL : BFR91A
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFR93A/PLP 1 2 3
Q1 6 5 7 7 BFR91A
* SOT23 parasitic model
               Lb  4 5 .4n 
               Le  7 8 .83n
               L1  2 4 .35n
               L2  1 6 .17n
               L3  3 8 .35n
              Ccb  4 6 71f
              Cbe  4 8 71f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFR91A.PRM                                     Date: Feb 1992
*
.MODEL  BFR91A   NPN
+              IS = 1.32873E-015
+              BF = 1.02000E+002
+              NF = 1.00025E+000
+             VAF = 5.19033E+001
+             IKF = 8.15511E+000
+             ISE = 1.39029E-014
+              NE = 1.51292E+000
+              BR = 1.76953E+001
+              NR = 9.94038E-001
+             VAR = 3.28032E+000
+             IKR = 1.00000E+001
+             ISC = 1.04297E-015
+              NC = 1.18993E+000
+              RB = 1.00000E+001
+             IRB = 1.00000E-006
+             RBM = 1.00000E+001
+              RE = 7.63636E-001
+              RC = 9.00000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 2.03216E-012
+             VJE = 6.00000E-001
+             MJE = 2.90076E-001
+              TF = 6.55790E-012
+             XTF = 3.89752E+001
+             VTF = 1.09308E+001
+             ITF = 5.21078E-001
+             CJC = 1.00353E-012
+             VJC = 3.40808E-001
+             MJC = 1.94223E-001
.ENDS
*

*
*  INFINEON
*
.SUBCKT BFR93A/INF 200 100 300
L1    1   10    0.85nH 
L2    2   20    0.001nH 
L3    3   30    0.69nH 
C1   10   20    84fF         
C2   20   30    165fF 
C3   30   10    73fF 
L4   10  100    0.51nH 
L5   20  200    0.49nH 
L6   30  300    0.61nH 
Q1   2 1 3 BFR93A 
.ENDS
.MODEL BFR93A NPN(
+ IS = 8.6752e-15     BF = 137.63       NF = 0.93633
+ VAF = 20.011        IKF = 0.33395     ISE = 2.6193e-12
+ NE = 1.5466         BR = 59           NR = 0.88761
+ VAR = 26.834        IKR = 0.015129    ISC = 7.0823e-16
+ NC = 1.95           RB = 7.2326       IRB = 4.3806e-05
+ RBM = 3.4649        RE = 1.0075       RC = 0.13193
+ CJE = 3.1538e-15    VJE = 0.70393     MJE = 0.5071
+ TF = 3.3388e-11     XTF = 0.28319     VTF = 0.17765
+ ITF = 0.0025184     PTF = 0           CJC = 1.0395e-12
+ VJC = 0.72744       MJC = 0.34565     XCJC = 0.21422
+ TR = 1.1061e-09     CJS= 0            VJS = 0.75
+ MJS = 0             XTB = 0           EG = 1.11
+ XTI = 3             FC = 0.75935)
**************************************************************



* Original model from Danzer
.MODEL BFR93A_DZR  NPN(IS=0.97f BF=99
+ VAF=55 IKF=0.26 ISE=0.8f
+ NE=1.34 CJE=3.23p CJC=1.35p
+ TF=18.4p ITF=85m XTF=3 VTF=2
+ RB=45 XCJC=0.2)

*
* Model improved from Danzer with additional package
* Package from INFINEON
* PACKAGE added from BFR93AW/INF
.SUBCKT BFR93A_DZRP 200 100 300
Q1 2 1 3 BFR93A_DZRP
* SOT23 parasitic model
L1    1   10    0.85nH 
L2    2   20    0.001nH 
L3    3   30    0.69nH 
C1   10   20    84fF         
C2   20   30    165fF 
C3   30   10    73fF 
L4   10  100    0.51nH 
L5   20  200    0.49nH 
L6   30  300    0.61nH 
.ENDS
*
.MODEL BFR93A_DZRP  NPN(IS=0.97f BF=99
+ VAF=55 IKF=0.26 ISE=0.8f
+ NE=1.34 CJE=2.9p CJC=1.0p
+ TF=18.4p ITF=85m XTF=3 VTF=2
+ RB=40 XCJC=0.2)

 
